US07238808B2
5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid amide
The title compound was prepared from 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.7) (82 mg, 0.25 mmol) and 5-bromo-pyridine-3-sulfonic acid amide (59 mg, 0.25 mmol) (Example B.1) according to general procedure II. Obtained as a yellow solid (57 mg, 47%). MS (ISP) 484.0 [(M+H)+]; mp 276–277° C.

reactant | 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F | C18H12F3N3
reactant | 5-bromo-pyridine-3-sulfonic acid amide | 0.25 mmol, 59 mg | BrC=1C=C(C=NC1)S(=O)(=O)N | C5H5BrN2O2S
product | 5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid amide | C1(CC1)C1=CC(=NC=2N1N=CC2C#CC=2C=C(C=NC2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F | C23H16F3N5O2S
